US05283248
A solution of p-nitrobenzyl 6-[4-(tert-butoxycarbonyl)-1-piperazinyl]-1-cyclopropyl-5-fluoro-2-benzimidazole acetate (553 mg, 1 mmol) in THF (50 ml) is treated in succession at 0° with triethylamine (300 mg, 3 mmol) and chloroacetyl isocyanate (298 mg, 2.5 mmol). After stirring for 20 hours the solvent is distilled off and the residues is taken up in ethyl acetate and washed in succession with water (50 ml) and 10 percent sodium chloride solution (50 ml). The organic phase is dried over magnesium sulfate and the solvent is evaporated. The residue is recrystallized from ethyl acetate. There are obtained 373 mg (59%) of p-nitrobenzyl 5-cyclopropyl-8-fluoro-1,2,3,4-tetrahydro-1,3-dioxo-7-[4-(tert-butoxycarbonyl)-1-piperazinyl]pyrimido[1,6-a]benzimidazole-4-carboxylate.

reactant | p-nitrobenzyl 6-[4-(tert-butoxycarbonyl)-1-piperazinyl]-1-cyclopropyl-5-fluoro-2-benzimidazole acetate | 1 mmol, 553 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=CC2=C(N(C(=N2)CC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C2CC2)C1)F | C28H32FN5O6
reactant | triethylamine | 3 mmol, 300 mg | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl isocyanate | 2.5 mmol, 298 mg | ClCC(=O)N=C=O | C3H2ClNO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | p-nitrobenzyl 5-cyclopropyl-8-fluoro-1,2,3,4-tetrahydro-1,3-dioxo-7-[4-(tert-butoxycarbonyl)-1-piperazinyl]pyrimido[1,6-a]benzimidazole-4-carboxylate | 373 mg, 59% | C1(CC1)N1C2N(C3=C1C=C(C(=C3)F)N3CCN(CC3)C(=O)OC(C)(C)C)C(NC(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)=O | C30H33FN6O8
